US05830717
To a solution of the FR-900506 substance (100.7 mg) in pyridine (3 ml) was added p-iodobenzenesulfonyl chloride (500 mg), and the mixture was stirred at room temperature or 36 hours. The solution was diluted with ethyl acetate and washed with a saturated aqueous sodium hydrogen carbonate, water and an aqueous sodium chloride. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was chromatographed on silica gel (developing solvent: diethyl ether and hexane, 3:1 v/v) to give 17-allyl-1,14-dihydroxy-12-[2-[4-(p-iodobenzenesulfonyloxy)-3-methoxycyclohexyl]-1-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (61 mg) and 17-allyl-1-hydroxy-12-[2-[4-(p-iodobenzenesulfonyloxy)-3-methoxycyclohexyl]-1-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacosa-14,18-diene-2,2,10,16-tetraone (12 mg), respectively.

reactant | FR-900506 | C[C@@H]1C[C@@H]([C@@H]2[C@H](C[C@H]([C@@](O2)(C(=O)C(=O)N3CCCC[C@H]3C(=O)O[C@@H]([C@@H]([C@H](CC(=O)[C@@H](/C=C(/C1)\C)CC=C)O)C)/C(=C/[C@@H]4CC[C@H]([C@@H](C4)OC)O)/C)O)C)OC)OC | C44H69NO12
reactant | p-iodobenzenesulfonyl chloride | 500 mg | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17-allyl-1,14-dihydroxy-12-[2-[4-(p-iodobenzenesulfonyloxy)-3-methoxycyclohexyl]-1-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 61 mg | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OS(=O)(=O)C2=CC=C(C=C2)I)OC)C)C)O)=O | C50H72INO14S
